US07312225B2
1e) Production of 3-Amino-N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-benzenesulfonamide
A solution of 1.35 g (2.99 mmol) of N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-3-nitro-benzenesulfonamide in 100 ml of tetrahydrofuran is mixed under argon at room temperature with 15 ml of a 15% solution of Ti(III)Cl in about 10% hydrochloric acid. After 17 hours, the reaction solution is mixed again with 1 ml of the Ti(III)Cl solution and stirred for another 3 hours. The batch is made basic with 1N NaOH solution and then filtered. The filter cake is rewashed 2× with 100 ml of ethyl acetate/MeOH (30 ml/20 ml) in each case. The filtrate is concentrated by evaporation in a rotary evaporator and then extracted with ethyl acetate (2×). The combined organic phases are washed with NaCl solution, dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (dichloromethane/MeOH 95:5, Flashmaster II). 624 mg (1.48 mmol, corresponding to 49% of theory) of the product is obtained.

reactant | N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-3-nitro-benzenesulfonamide | 2.99 mmol, 1.35 g | BrC=1C(=NC(=NC1)Cl)NCCCNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H13BrClN5O4S
reactant | NaOH | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | 3-Amino-N-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NCCCNC1=NC(=NC=C1Br)Cl | C13H15BrClN5O2S
